US09388161B2
(2S)-Methyl 5-cyclobutoxy-6-(1-(3-methoxy-1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate was synthesized from (2S)-methyl 6-(1-(1-(tert-butoxycarbonyl)-3-methoxypiperidin-4-yl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate and formaldehyde according to the procedure outlined above for Example 40. 1H NMR (300 MHz, CD3OD) δ ppm 1.19 (d, J=6.00 Hz, 3H), 1.20-1.50 (m, 2H), 1.55-1.85 (m, 1H), 2.01-2.22 (m, 4H), 2.22-2.68 (m, 4H), 2.88-3.08 (m, 5H), 3.10-3.22 (m, 2H), 3.50-3.60 (m, 1H), 3.80 (s, 3H), 3.81-4.01 (m, 1H), 4.05-4.25 (m, 1H), 4.30-4.45 (m, 1H), 4.48-4.70 (m, 1H), 7.20-7.40 (m, 2H), 7.85-8.10 (m, 2H). MS (ESI, pos. ion) m/z 469 [M+H]+.

reactant | (2S)-methyl 6-(1-(1-(tert-butoxycarbonyl)-3-methoxypiperidin-4-yl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1)OC | C30H42N4O6
reactant | formaldehyde | C=O | CH2O
product | (2S)-Methyl 5-cyclobutoxy-6-(1-(3-methoxy-1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1C(CN(CC1)C)OC)C(=O)OC)C | C26H36N4O4
